US04260633
Following the procedure of Example 8, (R)-2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid and (S)-α-cyano-3-phenoxybenzyl alcohol are combined, in the presence of 4-dimethylaminopyridine and dicyclohexylcarbodiimide, to yield (S)-α-cyano-3-phenoxybenzyl (R)-2-(4-trifluoromethylphenylamino)-3-methylbutanoate, specific rotation=+62.1° (c=9 mg/ml in CHCl3).

reactant | (R)-2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid | FC(C1=CC=C(C=C1)N[C@@H](C(=O)O)C(C)C)(F)F | C12H14F3NO2
reactant | (S)-α-cyano-3-phenoxybenzyl alcohol | C(#N)[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-α-cyano-3-phenoxybenzyl (R)-2-(4-trifluoromethylphenylamino)-3-methylbutanoate | FC(C1=CC=C(C=C1)N[C@@H](C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C(C)C)(F)F | C26H23F3N2O3
